* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : Comparator                                   *
* Netlisted  : Sat Sep 12 16:16:02 2026                     *
* Pegasus Version: 23.26-s005 Thu Oct 17 16:37:42 PDT 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 R(res_generic_m1) met1_res met1(P) met1(N)
*.DEVTMPLT 1 R(res_generic_m2) met2_res met2(P) met2(N)
*.DEVTMPLT 2 R(res_generic_m3) met3_res met3(P) met3(N)
*.DEVTMPLT 3 R(res_generic_m4) met4_res met4(P) met4(N)
*.DEVTMPLT 4 R(res_generic_m5) met5_res met5(P) met5(N)
*.DEVTMPLT 5 D(diode_pd2nw_05v5) diode_pd2nw_05v5_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 6 D(diode_pd2nw_05v5_hvt) diode_pd2nw_05v5_hvt_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 7 D(diode_pd2nw_05v5_lvt) diode_pd2nw_05v5_lvt_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 8 D(diode_pd2nw_11v0) diode_pd2nw_11v0_rec psd(PLUS) nwell(MINUS)
*.DEVTMPLT 9 D(diode_pw2nd_05v5) diode_pw2nd_05v5_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 10 D(diode_pw2nd_05v5_lvt) diode_pw2nd_05v5_lvt_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 11 D(diode_pw2nd_05v5_nvt) diode_pw2nd_05v5_nvt_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 12 D(diode_pw2nd_11v0) diode_pw2nd_11v0_rec pwell_all(PLUS) nsd(MINUS)
*.DEVTMPLT 13 R(RES_GENERIC_ND) diff_res np_term(P) np_term(N)
*.DEVTMPLT 14 R(RES_GENERIC_PD) diff_res pp_term(P) pp_term(N)
*.DEVTMPLT 15 MN(nfet_01v8) nfet_01v8_rec nSourceDrain(D) nfet(G) nSourceDrain(S) pwell_all(B)
*.DEVTMPLT 16 MP(pfet_01v8) pfet_01v8_rec pSourceDrain(D) pfet(G) pSourceDrain(S) nwell(B)
*.DEVTMPLT 17 MP(pfet_01v8_lvt) lvtpfet_01v8_rec pSourceDrain(D) lvtpfet(G) pSourceDrain(S) nwell(B)
*.DEVTMPLT 18 MN(nfet_01v8_lvt) lvtnfet_01v8_rec nSourceDrain(D) lvtnfet(G) nSourceDrain(S) pwell_all(B)
*.DEVTMPLT 19 MP(pfet_01v8_hvt) hvtpfet_01v8_rec pSourceDrain(D) hvtpfet(G) pSourceDrain(S) nwell(B)
*.DEVTMPLT 20 MN(nfet_03v3_nvt) HV_ngate_3v3 HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) pwell_all(B)
*.DEVTMPLT 21 MN(nfet_05v0_nvt) HV_ngate_5v0 HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) pwell_all(B)
*.DEVTMPLT 22 MN(nfet_g5v0d10v5) HV_ngate_5v10v HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) pwell_all(B)
*.DEVTMPLT 23 MP(pfet_g5v0d10v5) HV_pgate_5v10v HV_source_drain(D) HV_FET_gate(G) HV_source_drain(S) nwell(B)
*.DEVTMPLT 24 MN(nfet_20v0) nfet_v20_rec nfet_v20_drain(D) nfet_v20_gate(G) nfet_v20_source(S) pwell_all(B)
*.DEVTMPLT 25 MN(nfet_20v0_zvt) nfet_v20_zvt_rec nfet_v20_drain(D) nfet_v20_gate(G) nfet_v20_source(S) pwell_all(B)
*.DEVTMPLT 26 MP(pfet_20v0) pfet_v20_rec pfet_v20_drain(D) pfet_v20_gate(G) pfet_v20_source(S) nwell(B)
*.DEVTMPLT 27 Q(npn_05v5) npn_rec npnC(C) npnB(B) npnE(E) pwell_all(BN)
*.DEVTMPLT 28 Q(npn_11v0) hvnpn_rec npnC(C) npnB(B) hvnpnE(E) pwell_all(BN)
*.DEVTMPLT 29 Q(pnp_05v5) pnp_rec pnpC(C) pnpB(B) pnpE(E) pwell_all(BN)
*.DEVTMPLT 30 R(res_high_po_0p35) res_high_po_0p35_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 31 R(res_high_po_0p69) res_high_po_0p69_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 32 R(res_high_po_1p41) res_high_po_1p41_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 33 R(res_high_po_2p85) res_high_po_2p85_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 34 R(res_high_po_5p73) res_high_po_5p73_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 35 R(res_xhigh_po_0p35) res_xhigh_po_0p35_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 36 R(res_xhigh_po_0p69) res_xhigh_po_0p69_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 37 R(res_xhigh_po_1p41) res_xhigh_po_1p41_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 38 R(res_xhigh_po_2p85) res_xhigh_po_2p85_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 39 R(res_xhigh_po_5p73) res_xhigh_po_5p73_rec prec_resistor_term(PLUS) prec_resistor_term(MINUS) pwell_all(B)
*.DEVTMPLT 40 C(cap_mim_m3__base) capacitor top_plate(PLUS) bottom_plate(MINUS)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1M2_C_CDNS_789193760320                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1M2_C_CDNS_789193760320 1
** N=1 EP=1 FDC=0
.ends M1M2_C_CDNS_789193760320

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L1M1_C_CDNS_789193760321                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L1M1_C_CDNS_789193760321 1
** N=1 EP=1 FDC=0
.ends L1M1_C_CDNS_789193760321

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1M2_C_CDNS_789193760322                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1M2_C_CDNS_789193760322 1
** N=1 EP=1 FDC=0
.ends M1M2_C_CDNS_789193760322

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L1M1_C_CDNS_789193760323                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L1M1_C_CDNS_789193760323 1
** N=1 EP=1 FDC=0
.ends L1M1_C_CDNS_789193760323

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M4M5_C_CDNS_789193760324                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M4M5_C_CDNS_789193760324 1
** N=1 EP=1 FDC=0
.ends M4M5_C_CDNS_789193760324

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M3M4_C_CDNS_789193760325                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M3M4_C_CDNS_789193760325 1
** N=1 EP=1 FDC=0
.ends M3M4_C_CDNS_789193760325

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2M3_C_CDNS_789193760326                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2M3_C_CDNS_789193760326 1
** N=1 EP=1 FDC=0
.ends M2M3_C_CDNS_789193760326

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1M2_C_CDNS_789193760327                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1M2_C_CDNS_789193760327 1
** N=1 EP=1 FDC=0
.ends M1M2_C_CDNS_789193760327

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L1M1_C_CDNS_789193760328                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L1M1_C_CDNS_789193760328 1
** N=1 EP=1 FDC=0
.ends L1M1_C_CDNS_789193760328

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_789193760322                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_789193760322 1 2 3 4
** N=9 EP=4 FDC=1
M0 4 1 3 2 nfet_01v8 L=3e-07 W=1e-06 $X=0 $Y=0 $dt=15
.ends nfet_01v8_CDNS_789193760322

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_789193760323                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_789193760323 1 2 3 4
** N=12 EP=4 FDC=2
M0 4 1 3 2 nfet_01v8 L=3e-07 W=1e-06 $X=0 $Y=0 $dt=15
M1 3 1 4 2 nfet_01v8 L=3e-07 W=1e-06 $X=580 $Y=0 $dt=15
.ends nfet_01v8_CDNS_789193760323

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: polyConn_CDNS_789193760320                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt polyConn_CDNS_789193760320 1
** N=2 EP=1 FDC=0
.ends polyConn_CDNS_789193760320

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_789193760321                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_789193760321 1 2 3 4
** N=34 EP=4 FDC=8
M0 4 1 3 2 nfet_01v8 L=3e-07 W=1e-06 $X=0 $Y=0 $dt=15
M1 3 1 4 2 nfet_01v8 L=3e-07 W=1e-06 $X=580 $Y=0 $dt=15
M2 4 1 3 2 nfet_01v8 L=3e-07 W=1e-06 $X=1160 $Y=0 $dt=15
M3 3 1 4 2 nfet_01v8 L=3e-07 W=1e-06 $X=1740 $Y=0 $dt=15
M4 4 1 3 2 nfet_01v8 L=3e-07 W=1e-06 $X=2320 $Y=0 $dt=15
M5 3 1 4 2 nfet_01v8 L=3e-07 W=1e-06 $X=2900 $Y=0 $dt=15
M6 4 1 3 2 nfet_01v8 L=3e-07 W=1e-06 $X=3480 $Y=0 $dt=15
M7 3 1 4 2 nfet_01v8 L=3e-07 W=1e-06 $X=4060 $Y=0 $dt=15
.ends nfet_01v8_CDNS_789193760321

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_789193760324                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_789193760324 1 2 3 4
** N=20 EP=4 FDC=4
M0 4 1 3 2 nfet_01v8 L=3e-07 W=1e-06 $X=0 $Y=0 $dt=15
M1 3 1 4 2 nfet_01v8 L=3e-07 W=1e-06 $X=580 $Y=0 $dt=15
M2 4 1 3 2 nfet_01v8 L=3e-07 W=1e-06 $X=1160 $Y=0 $dt=15
M3 3 1 4 2 nfet_01v8 L=3e-07 W=1e-06 $X=1740 $Y=0 $dt=15
.ends nfet_01v8_CDNS_789193760324

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: sarcta__C0                                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt sarcta__C0 1 2
** N=2 EP=2 FDC=0
.ends sarcta__C0

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: Trim                                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt Trim 1 2 3
** N=13 EP=3 FDC=16
X0 4 M1M2_C_CDNS_789193760320 $T=3035 6950 0 0 $X=2905 $Y=6790
X1 5 M1M2_C_CDNS_789193760320 $T=3600 6125 0 0 $X=3470 $Y=5965
X2 4 M1M2_C_CDNS_789193760320 $T=4160 6950 0 0 $X=4030 $Y=6790
X3 6 M1M2_C_CDNS_789193760320 $T=4555 5235 0 0 $X=4425 $Y=5075
X4 4 M1M2_C_CDNS_789193760320 $T=5280 6950 0 0 $X=5150 $Y=6790
X5 5 M1M2_C_CDNS_789193760320 $T=5840 6125 0 0 $X=5710 $Y=5965
X6 4 M1M2_C_CDNS_789193760320 $T=6400 6950 0 0 $X=6270 $Y=6790
X7 7 M1M2_C_CDNS_789193760320 $T=6625 4595 0 0 $X=6495 $Y=4435
X8 4 M1M2_C_CDNS_789193760320 $T=8085 6950 0 0 $X=7955 $Y=6790
X9 8 M1M2_C_CDNS_789193760320 $T=8115 4595 0 0 $X=7985 $Y=4435
X10 5 M1M2_C_CDNS_789193760320 $T=8645 6125 0 0 $X=8515 $Y=5965
X11 4 M1M2_C_CDNS_789193760320 $T=9205 6950 0 0 $X=9075 $Y=6790
X12 6 M1M2_C_CDNS_789193760320 $T=9765 5235 0 0 $X=9635 $Y=5075
X13 4 M1M2_C_CDNS_789193760320 $T=10325 6950 0 0 $X=10195 $Y=6790
X14 5 M1M2_C_CDNS_789193760320 $T=10885 6125 0 0 $X=10755 $Y=5965
X15 4 M1M2_C_CDNS_789193760320 $T=11435 6950 0 0 $X=11305 $Y=6790
X16 2 L1M1_C_CDNS_789193760323 $T=745 3545 0 0 $X=630 $Y=3380
X17 9 L1M1_C_CDNS_789193760323 $T=1905 780 0 0 $X=1790 $Y=615
X18 2 L1M1_C_CDNS_789193760323 $T=1905 3545 0 0 $X=1790 $Y=3380
X19 2 L1M1_C_CDNS_789193760323 $T=3065 3545 0 0 $X=2950 $Y=3380
X20 2 L1M1_C_CDNS_789193760323 $T=3975 3545 0 0 $X=3860 $Y=3380
X21 10 L1M1_C_CDNS_789193760323 $T=4570 780 0 0 $X=4455 $Y=615
X22 2 L1M1_C_CDNS_789193760323 $T=5135 3545 0 0 $X=5020 $Y=3380
X23 2 L1M1_C_CDNS_789193760323 $T=6045 3545 0 0 $X=5930 $Y=3380
X24 11 L1M1_C_CDNS_789193760323 $T=6365 780 0 0 $X=6250 $Y=615
X25 2 L1M1_C_CDNS_789193760323 $T=7535 3545 0 0 $X=7420 $Y=3380
X26 12 L1M1_C_CDNS_789193760323 $T=7830 780 0 0 $X=7715 $Y=615
X27 2 L1M1_C_CDNS_789193760323 $T=9025 3545 0 0 $X=8910 $Y=3380
X28 2 L1M1_C_CDNS_789193760323 $T=10185 3545 0 0 $X=10070 $Y=3380
X29 13 L1M1_C_CDNS_789193760323 $T=11345 760 0 0 $X=11230 $Y=595
X30 2 L1M1_C_CDNS_789193760323 $T=11345 3545 0 0 $X=11230 $Y=3380
X31 2 L1M1_C_CDNS_789193760323 $T=12505 3545 0 0 $X=12390 $Y=3380
X32 2 L1M1_C_CDNS_789193760323 $T=13665 3545 0 0 $X=13550 $Y=3380
X33 4 polyConn_CDNS_789193760320 $T=3035 6950 0 0 $X=2850 $Y=6765
X34 5 polyConn_CDNS_789193760320 $T=3600 6125 0 0 $X=3415 $Y=5940
X35 4 polyConn_CDNS_789193760320 $T=4160 6950 0 0 $X=3975 $Y=6765
X36 6 polyConn_CDNS_789193760320 $T=4555 5235 0 0 $X=4370 $Y=5050
X37 4 polyConn_CDNS_789193760320 $T=5280 6950 0 0 $X=5095 $Y=6765
X38 5 polyConn_CDNS_789193760320 $T=5840 6125 0 0 $X=5655 $Y=5940
X39 4 polyConn_CDNS_789193760320 $T=6400 6950 0 0 $X=6215 $Y=6765
X40 7 polyConn_CDNS_789193760320 $T=6625 4595 0 0 $X=6440 $Y=4410
X41 4 polyConn_CDNS_789193760320 $T=8085 6950 0 0 $X=7900 $Y=6765
X42 8 polyConn_CDNS_789193760320 $T=8115 4595 0 0 $X=7930 $Y=4410
X43 5 polyConn_CDNS_789193760320 $T=8645 6125 0 0 $X=8460 $Y=5940
X44 4 polyConn_CDNS_789193760320 $T=9205 6950 0 0 $X=9020 $Y=6765
X45 6 polyConn_CDNS_789193760320 $T=9765 5235 0 0 $X=9580 $Y=5050
X46 4 polyConn_CDNS_789193760320 $T=10325 6950 0 0 $X=10140 $Y=6765
X47 5 polyConn_CDNS_789193760320 $T=10885 6125 0 0 $X=10700 $Y=5940
X48 4 polyConn_CDNS_789193760320 $T=11435 6950 0 0 $X=11250 $Y=6765
X49 13 1 2 4 nfet_01v8_CDNS_789193760321 $T=9165 2055 0 0 $X=8760 $Y=1545
X50 11 1 2 7 nfet_01v8_CDNS_789193760322 $T=6185 2055 0 0 $X=5780 $Y=1545
X51 12 1 2 8 nfet_01v8_CDNS_789193760322 $T=7675 2055 0 0 $X=7270 $Y=1545
X52 10 1 2 6 nfet_01v8_CDNS_789193760323 $T=4115 2055 0 0 $X=3710 $Y=1545
X53 9 1 2 5 nfet_01v8_CDNS_789193760324 $T=885 2055 0 0 $X=480 $Y=1545
X54 2 3 sarcta__C0 $T=1705 7660 0 0 $X=1705 $Y=7345
X55 4 3 sarcta__C0 $T=2265 7660 0 0 $X=2265 $Y=7345
X56 5 3 sarcta__C0 $T=2825 7660 0 0 $X=2825 $Y=7345
X57 4 3 sarcta__C0 $T=3385 7660 0 0 $X=3385 $Y=7345
X58 6 3 sarcta__C0 $T=3945 7660 0 0 $X=3945 $Y=7345
X59 4 3 sarcta__C0 $T=4505 7660 0 0 $X=4505 $Y=7345
X60 5 3 sarcta__C0 $T=5065 7660 0 0 $X=5065 $Y=7345
X61 4 3 sarcta__C0 $T=5625 7660 0 0 $X=5625 $Y=7345
X62 7 3 sarcta__C0 $T=6185 7660 0 0 $X=6185 $Y=7345
X63 8 3 sarcta__C0 $T=6745 7660 0 0 $X=6745 $Y=7345
X64 4 3 sarcta__C0 $T=7305 7660 0 0 $X=7305 $Y=7345
X65 5 3 sarcta__C0 $T=7865 7660 0 0 $X=7865 $Y=7345
X66 4 3 sarcta__C0 $T=8425 7660 0 0 $X=8425 $Y=7345
X67 6 3 sarcta__C0 $T=8985 7660 0 0 $X=8985 $Y=7345
X68 4 3 sarcta__C0 $T=9545 7660 0 0 $X=9545 $Y=7345
X69 5 3 sarcta__C0 $T=10105 7660 0 0 $X=10105 $Y=7345
X70 4 3 sarcta__C0 $T=10665 7660 0 0 $X=10665 $Y=7345
X71 2 3 sarcta__C0 $T=11225 7660 0 0 $X=11225 $Y=7345
.ends Trim

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nfet_01v8_CDNS_789193760325                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nfet_01v8_CDNS_789193760325 1 2 3 4
** N=9 EP=4 FDC=1
M0 4 1 3 2 nfet_01v8 L=3e-07 W=1e-06 $X=0 $Y=0 $dt=15
.ends nfet_01v8_CDNS_789193760325

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pfet_01v8_CDNS_789193760326                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pfet_01v8_CDNS_789193760326 1 2 3 4
** N=11 EP=4 FDC=1
M0 4 1 3 3 pfet_01v8 L=3e-07 W=1e-06 $X=0 $Y=0 $dt=16
.ends pfet_01v8_CDNS_789193760326

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: Comparator                                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt Comparator
** N=13 EP=0 FDC=44
X0 1 M1M2_C_CDNS_789193760320 $T=-615 3895 0 0 $X=-745 $Y=3735
X1 2 M1M2_C_CDNS_789193760320 $T=4180 7665 0 0 $X=4050 $Y=7505
X2 3 M1M2_C_CDNS_789193760320 $T=5840 5420 0 0 $X=5710 $Y=5260
X3 3 M1M2_C_CDNS_789193760320 $T=5855 10205 0 0 $X=5725 $Y=10045
X4 4 M1M2_C_CDNS_789193760320 $T=11955 10205 0 0 $X=11825 $Y=10045
X5 4 M1M2_C_CDNS_789193760320 $T=11980 5420 0 0 $X=11850 $Y=5260
X6 5 M1M2_C_CDNS_789193760320 $T=13445 7655 0 0 $X=13315 $Y=7495
X7 6 M1M2_C_CDNS_789193760320 $T=18370 3925 0 0 $X=18240 $Y=3765
X8 1 L1M1_C_CDNS_789193760321 $T=-615 3895 0 0 $X=-745 $Y=3730
X9 2 L1M1_C_CDNS_789193760321 $T=4180 7665 0 0 $X=4050 $Y=7500
X10 7 L1M1_C_CDNS_789193760321 $T=5315 3275 0 0 $X=5185 $Y=3110
X11 7 L1M1_C_CDNS_789193760321 $T=5315 9685 0 0 $X=5185 $Y=9520
X12 3 L1M1_C_CDNS_789193760321 $T=5840 5420 0 0 $X=5710 $Y=5255
X13 3 L1M1_C_CDNS_789193760321 $T=5855 10205 0 0 $X=5725 $Y=10040
X14 4 L1M1_C_CDNS_789193760321 $T=11955 10200 0 0 $X=11825 $Y=10035
X15 4 L1M1_C_CDNS_789193760321 $T=11980 5420 0 0 $X=11850 $Y=5255
X16 7 L1M1_C_CDNS_789193760321 $T=12520 3275 0 0 $X=12390 $Y=3110
X17 7 L1M1_C_CDNS_789193760321 $T=12520 9685 0 0 $X=12390 $Y=9520
X18 5 L1M1_C_CDNS_789193760321 $T=13445 7655 0 0 $X=13315 $Y=7490
X19 6 L1M1_C_CDNS_789193760321 $T=18370 3925 0 0 $X=18240 $Y=3760
X20 4 M1M2_C_CDNS_789193760322 $T=7245 8850 0 0 $X=7080 $Y=8690
X21 3 M1M2_C_CDNS_789193760322 $T=10575 8850 0 0 $X=10410 $Y=8690
X22 8 L1M1_C_CDNS_789193760323 $T=2635 13605 0 0 $X=2520 $Y=13440
X23 8 L1M1_C_CDNS_789193760323 $T=4765 13605 0 0 $X=4650 $Y=13440
X24 9 L1M1_C_CDNS_789193760323 $T=7720 2210 0 0 $X=7605 $Y=2045
X25 8 L1M1_C_CDNS_789193760323 $T=7835 13605 0 0 $X=7720 $Y=13440
X26 8 L1M1_C_CDNS_789193760323 $T=9965 13605 0 0 $X=9850 $Y=13440
X27 9 L1M1_C_CDNS_789193760323 $T=10110 2230 0 0 $X=9995 $Y=2065
X28 8 L1M1_C_CDNS_789193760323 $T=13035 13605 0 0 $X=12920 $Y=13440
X29 8 L1M1_C_CDNS_789193760323 $T=15165 13605 0 0 $X=15050 $Y=13440
X30 10 M4M5_C_CDNS_789193760324 $T=1200 2150 0 0 $X=400 $Y=1350
X31 11 M4M5_C_CDNS_789193760324 $T=16485 2130 0 0 $X=15685 $Y=1330
X32 10 M3M4_C_CDNS_789193760325 $T=1200 2150 0 0 $X=610 $Y=1560
X33 11 M3M4_C_CDNS_789193760325 $T=16485 2130 0 0 $X=15895 $Y=1540
X34 10 M2M3_C_CDNS_789193760326 $T=1200 2150 0 0 $X=800 $Y=1750
X35 11 M2M3_C_CDNS_789193760326 $T=16485 2130 0 0 $X=16085 $Y=1730
X36 10 M1M2_C_CDNS_789193760327 $T=1200 2150 0 0 $X=800 $Y=1750
X37 11 M1M2_C_CDNS_789193760327 $T=16485 2130 0 0 $X=16085 $Y=1730
X38 4 L1M1_C_CDNS_789193760328 $T=7245 7205 0 0 $X=7100 $Y=7090
X39 4 L1M1_C_CDNS_789193760328 $T=8115 10475 0 0 $X=7970 $Y=10360
X40 3 L1M1_C_CDNS_789193760328 $T=9675 10475 0 0 $X=9530 $Y=10360
X41 3 L1M1_C_CDNS_789193760328 $T=10575 7205 0 0 $X=10430 $Y=7090
X42 4 12 1 3 nfet_01v8_CDNS_789193760322 $T=7395 5865 0 180 $X=6690 $Y=4715
X43 2 12 13 1 nfet_01v8_CDNS_789193760322 $T=8505 5865 0 180 $X=7800 $Y=4715
X44 7 12 9 13 nfet_01v8_CDNS_789193760323 $T=8470 1700 0 0 $X=8065 $Y=1190
X45 12 9 1 Trim $T=-12720 14805 0 270 $X=-12705 $Y=-275
X46 12 9 6 Trim $T=30475 14805 1 270 $X=18285 $Y=-275
X47 5 12 13 6 nfet_01v8_CDNS_789193760325 $T=9315 4865 0 0 $X=8910 $Y=4715
X48 3 12 6 4 nfet_01v8_CDNS_789193760325 $T=10425 4865 0 0 $X=10020 $Y=4715
X49 7 12 8 1 pfet_01v8_CDNS_789193760326 $T=2495 12065 1 180 $X=1750 $Y=11555
X50 7 12 8 3 pfet_01v8_CDNS_789193760326 $T=4905 12065 0 0 $X=3900 $Y=11555
X51 4 12 8 3 pfet_01v8_CDNS_789193760326 $T=7695 12065 1 180 $X=6950 $Y=11555
X52 3 12 8 4 pfet_01v8_CDNS_789193760326 $T=10105 12065 0 0 $X=9100 $Y=11555
X53 7 12 8 4 pfet_01v8_CDNS_789193760326 $T=12895 12065 1 180 $X=12150 $Y=11555
X54 7 12 8 6 pfet_01v8_CDNS_789193760326 $T=15305 12065 0 0 $X=14300 $Y=11555
.ends Comparator
